### PR TITLE
[Merged by Bors] - refactor(LinearIndependent): refactor to use LinearIndepOn

### PR DESCRIPTION
**Pull request by apnelson1**
Currently, if `s` is a set of vectors in a module `W`, the way to state that the vectors in `s` are linearly independent is 
`LinearIndependent R (Subtype.val : ↥s → W)` (or similar), and if `v : ι -> W` and `s : Set ι` is a set of indices, the way to state that `s` indexes a linearly independent subcollection is `LinearIndependent  R (fun x : ↥s ↦ (f x : W))` or similar. 

#21799 introduced a definition `LinearIndepOn`, which gives an alternative spelling 
`LinearIndepOn R f s` instead of `LinearIndependent  R (fun x : ↥s ↦ (f x : W))` for the indexed version, and (therefore) `LinearIndepOn R id s` for the set version. 

This PR updates spellings throughout mathlib, changing terms of type `LinearIndependent R (Subtype.val : ↥s → W)` to `LinearIndepOn R id s` and 
`LinearIndependent  R (fun x : ↥s ↦ (f x : W))` to `LinearIndepOn R f s`.

The API using the old spellings has been deprecated, and replaced with new one - the diff is designed to be as small as possible subject to deprecating the old spellings. In some cases, where no extra work was needed, we generalized lemmas that previously apply to `LinearIndepOn R id s` to `LinearIndepOn R v s` for arbitrary `v`. But there is room to do this further in other places, some of which have been marked TODO. 

Most changes happen in `LinearAlgebra/LinearIndependent.lean`, but only about 100 lines have been added to the length, many of which are deprecated alias lines.  Nearly all other changes are knock-on effects, where statements, proofs and (in two cases) definitions that use the old spellings are updated.  22 files are affected, but the majority only in the form of slight modifications of proofs to avoid deprecated lemmas. 

The two files other than `LinearIndependent.lean` with changed definitions are: 

- `Mathlib/LinearAlgebra/Dimension/Basic.lean` (definition of Module.rank)
- `Mathlib/LinearAlgebra/Dimension/RankNullity.lean` (changed structure field of `HasRankNullity`)

The files with changed theorem statements are: 

- `Mathlib/FieldTheory/Fixed.lean`
- `Mathlib/LinearAlgebra/Basis/VectorSpace.lean`
- `Mathlib/LinearAlgebra/Dimension/Constructions.lean`
- `Mathlib/LinearAlgebra/Dimension/Finite.lean`
- `Mathlib/LinearAlgebra/Dimension/FreeAndStrongRankCondition.lean`
- `Mathlib/LinearAlgebra/Dimension/LinearMap.lean`
- `Mathlib/LinearAlgebra/Dimension/Localization.lean`
- `Mathlib/LinearAlgebra/Dimension/StrongRankCondition.lean`

[Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2321886.20LinearIndepOn.20refactor/near/500527995)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by j-loreaux — APPROVED** [review]
Thanks @apnelson1 ! I think this is quite nice. I really appreciate the work you did here and in the creation of `LinearIndepOn`. I'm going to leave it just a bit longer in case anyone else has something to say, but if, after addressing these minor issues below, it's not merged in a few days, I'll come back to do it.

File: Mathlib/LinearAlgebra/LinearIndependent.lean [hunk 1]
```diff
@@ -368,10 +397,18 @@ theorem LinearIndependent.map_injOn (hv : LinearIndependent R v) (f : M →ₗ[R
...
+theorem LinearIndepOn.map_injOn (hv : LinearIndepOn R v s) (f : M →ₗ[R] M')
+    (hf_inj : Set.InjOn f (span R (v '' s))) : LinearIndepOn R (f ∘ v) s :=
+  (f.linearIndepOn_iff_of_injOn hf_inj).mpr hv
+
 @[nontriviality]
 theorem linearIndependent_of_subsingleton [Subsingleton R] : LinearIndependent R v :=
   linearIndependent_iffₛ.2 fun _l _l' _hl => Subsingleton.elim _ _
 
+@[nontriviality]
+theorem linearIndepOn_of_subsingleton [Subsingleton R] : LinearIndepOn R v s :=
```
[the remark this answers is not in the document]
Comment (apnelson1) [reply Mathlib/LinearAlgebra/LinearIndependent.lean:409]: In the name of limiting scope, I've added a TODO for the first.

File: Mathlib/LinearAlgebra/LinearIndependent.lean [hunk 2]
```diff
@@ -448,10 +525,6 @@ theorem LinearIndependent.units_smul_iff (v : ι → M) (w : ι → Rˣ) :
   convert h.units_smul (fun i ↦ (w i)⁻¹)
   simp [funext_iff]
 
-theorem linearIndependent_image {ι} {s : Set ι} {f : ι → M} (hf : Set.InjOn f s) :
-    (LinearIndependent R fun x : s ↦ f x) ↔ LinearIndependent R fun x : f '' s => (x : M) :=
-  linearIndependent_equiv' (Equiv.Set.imageOfInjOn _ _ hf) rfl
```
[the remark this answers is not in the document]
Comment (apnelson1) [reply Mathlib/LinearAlgebra/LinearIndependent.lean:453]: I think line 436 does this.

File: Mathlib/FieldTheory/Fixed.lean [hunk 3]
```diff
@@ -111,22 +111,23 @@ theorem coe_algebraMap :
...
+  rw [linearIndepOn_insert (mt mem_coe.1 has)]; refine ⟨ih hs.1, fun ha => ?_⟩
   rw [Finsupp.mem_span_image_iff_linearCombination] at ha; rcases ha with ⟨l, hl, hla⟩
   rw [Finsupp.linearCombination_apply_of_mem_supported F hl] at hla
   suffices ∀ i ∈ s, l i ∈ FixedPoints.subfield G F by
     replace hla := (sum_apply _ _ fun i => l i • toFun G F i).symm.trans (congr_fun hla 1)
     simp_rw [Pi.smul_apply, toFun_apply, one_smul] at hla
     refine hs.2 (hla ▸ Submodule.sum_mem _ fun c hcs => ?_)
     change (⟨l c, this c hcs⟩ : FixedPoints.subfield G F) • c ∈ _
-    exact Submodule.smul_mem _ _ (Submodule.subset_span <| mem_coe.2 hcs)
+    refine Submodule.smul_mem _ _ (Submodule.subset_span <| by simpa)
```
Comment (madvorak) [inline Mathlib/FieldTheory/Fixed.lean:129]: Does this line end the proof?

**Review by madvorak — APPROVED** [review]

File: Mathlib/LinearAlgebra/LinearIndependent.lean [hunk 4]
```diff
@@ -127,13 +131,15 @@ def delabLinearIndependent : Delab :=
     else
       withNaryArg 0 do return (← read).optionsPerPos.setBool (← getPos) `pp.analysis.namedArg true
     withTheReader Context ({· with optionsPerPos}) delab
-
 /-- `LinearIndepOn R v s` states that the vectors in the family `v` that are indexed
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/LinearIndependent.lean:134]: Let's readd the missing newline here.
```suggestion

/-- `LinearIndepOn R v s` states that the vectors in the family `v` that are indexed
```

File: Mathlib/LinearAlgebra/LinearIndependent.lean [hunk 5]
```diff
@@ -171,9 +184,15 @@ variable (R v) in
 theorem linearIndepOn_empty : LinearIndepOn R v ∅ :=
   linearIndependent_empty_type ..
 
-theorem linearIndependent_set_subtype {s : Set ι} :
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/LinearIndependent.lean:174]: I couldn't find a `@[deprecated] alias` for this rename. Since all the other renames in this PR seem to have matching aliases, is this intentional?

**Review by Vierkantor — APPROVED** [review]
This is some nice work, I'm happy to redo my split of `LinearIndependent.lean` so that this can be merged first in peace. :)

File: Mathlib/LinearAlgebra/LinearIndependent.lean (hunk 5 above)
Comment (apnelson1) [reply Mathlib/LinearAlgebra/LinearIndependent.lean:174]: I missed this - thanks!

**Comment by apnelson1** [comment]
> This is some nice work, I'm happy to redo my split of `LinearIndependent.lean` so that this can be merged first in peace. :)

Thanks for the review and the patience!

**Comment by j-loreaux** [comment]
Thanks!

bors merge
